US09212190B2
A solution of tert-butyl N-methyl-N-(4-[[(3R)-3-([[(methylcarbamoyl)methyl]carbamoyl]methyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (130 mg, 0.24 mmol, 1.00 equiv) in 5.5 mL of dichloromethane was added concentrated hydrochloric acid (0.5 mL) at 0° C. under nitrogen. The resulting solution was stirred for 2 h at 0° C. in a water/ice bath and concentrated under reduced pressure to afford N-methyl-2-[2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]acetamido]acetamide hydrochloride (105 mg, crude) as a yellow oil. MS: m/z 432 [M+H]+.

reactant | tert-butyl N-methyl-N-(4-[[(3R)-3-([[(methylcarbamoyl)methyl]carbamoyl]methyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.24 mmol, 130 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(NCC(NC)=O)=O | C26H37N5O5S
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | dichloromethane | 5.5 mL | ClCCl | CH2Cl2
product | N-methyl-2-[2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]acetamido]acetamide hydrochloride | 105 mg | Cl.CNC(CNC(C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC)=O)=O | InChI=1S/C21H29N5O3S.ClH/c1-22-13-4-6-14(7-5-13)29-20-19-18-12(9-16(27)24-10-17(28)23-2)3-8-15(18)30-21(19)26-11-25-20;/h11-14,22H,3-10H2,1-2H3,(H,23,28)(H,24,27);1H/t12-,13?,14?;/m1./s1
